* Z:\mnt\spice-netlists\LT8309_TA03_.asc
R1 N009 0 30.9K
V1 IN 0 48
C1 N013 N012 15n
C2 0 N018 4.7µ
R2 N002 N005 147K
R3 0 N010 6.04K
L1 IN N002 28.5µ
L2 N003 OUT 1µ
C3 OUT 0 400µ
R4 N012 0 12.1K
C4 0 N016 .005µ
R5 IN N004 412K
R6 N004 0 15.4K
XU1 0 MP_01 MP_02 N014 IN N018 N004 MP_03 MP_04 N016 N017 N013 N005 N010 N009 LT3748
M§Q1 N002 N014 N017 N017 BSC320N20NS3
R7 N017 0 12m
XU2 N015 0 N008 N007 N011 LT8309
M§Q2 N003 N015 0 0 BSC028N06LS3
R8 N011 N003 2.3K
D1 N003 N006 PMEG6010AED
R9 N007 N006 3
C5 N007 0 1µ
C6 N008 0 4.7µ
C7 IN N001 100p
R10 N002 N001 100
Rload OUT 0 .625
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 1
.tran 4m startup
* LT8309 - Secondary-Side Synchronous Rectifier Driver\nLT3748 - 100V Isolated Flyback Controller\n40W, 5V Isolated Telecom Supply\nInput: 36V to 72V       Output: 5V @ 8A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2014 Linear Technology Inc. All rights reserved.
.lib LT3748.sub
.lib LT8309.sub
.backanno
.end
